US07485644B2
A stirred solution of 1-[5-(benzyloxy)pyridin-2-yl]piperazine (104 g, 278 mmol) in CH2Cl2 (1.1L) at 0° C. was treated sequentially with triethylamine (94 mL, 672 mmol) and methanesulfonyl chloride (31 mL, 400 mmol). The reaction was brought to room temperature and stirred for 3 hour. The reaction was then diluted with DCM (3L) and washed with water (1L), HCl (0.5 M, 2×800 mL) and sat. NaHCO3 (800 mL), back-extracting with DCM (500 mL). The combined organic extracts were then dried (MgSO4), filtered and concentrated in vacuo to give 1-[5-(benzyloxy)pyridin-2-yl]-4-(methylsulfonyl)piperazine as a dark liquor (120 g, 278 mmol @ 81 wt %, 100%).

reactant | 1-[5-(benzyloxy)pyridin-2-yl]piperazine | 278 mmol, 104 g | C(C1=CC=CC=C1)OC=1C=CC(=NC1)N1CCNCC1 | C16H19N3O
reactant | triethylamine | 672 mmol, 94 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 400 mmol, 31 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 1.1L | C(Cl)Cl | CH2Cl2
product | 1-[5-(benzyloxy)pyridin-2-yl]-4-(methylsulfonyl)piperazine | C(C1=CC=CC=C1)OC=1C=CC(=NC1)N1CCN(CC1)S(=O)(=O)C | C17H21N3O3S
